US05696138
N-(3-methoxycarbonylphenyl)-N'-(2-methoxy-5-chlorophenyl) urea.
N-(3-carboxyphenyl)-N'-(2-methoxy-5-chlorophenyl) urea (3.00 g, 9.4 mmol) was suspended in methanol (100 ml). Concentrated sulfuric acid (1.0 ml) was added and the reaction was heated at reflux for 6 hours. The reaction mixture was poured into cold (0° C.) water (600 ml). Filtration of the suspension afforded the crude product. The crude product was purified by column chromatography on silica using dichloromethane/ethyl acetate 19:1 as eluent. 2.35 g of the title compound was isolated.

reactant | N-(3-carboxyphenyl)-N'-(2-methoxy-5-chlorophenyl) urea | 9.4 mmol, 3.00 g | C(=O)(O)C=1C=C(C=CC1)NC(=O)NC1=C(C=CC(=C1)Cl)OC | C15H13ClN2O4
reactant | sulfuric acid | 1.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 600 ml | O | H2O
reactant | methanol | 100 ml | CO | CH4O
product | N-(3-methoxycarbonylphenyl)-N'-(2-methoxy-5-chlorophenyl) urea | 2.35 g | COC(=O)C=1C=C(C=CC1)NC(=O)NC1=C(C=CC(=C1)Cl)OC | C16H15ClN2O4
